US04193937
Following the general procedure I, 0.25 mol of 4,5-dichloro-2-methoxyaniline in 200 ml of water and 60 ml of concentrated hydrochloric acid are hydrogenated in the presence of the catalyst from Example 1 at 180° C. over the course of 45 minutes under a hydrogen pressure of 100 atmospheres gauge. 5-Chloro-2-methoxyaniline is obtained in a yield of 40% and a purity of 74%.

reactant | 4,5-dichloro-2-methoxyaniline | 0.25 mol | ClC1=CC(=C(N)C=C1Cl)OC | C7H7Cl2NO
solvent | water | 200 ml | O | H2O
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 5-Chloro-2-methoxyaniline | yield of 40% | ClC=1C=CC(=C(N)C1)OC | C7H8ClNO
